US06958145B2
3-Methyl-4-oxo-2-hexenoic acid
Prepared from glyoxylic acid (16.1 g, 0.18 mol), 3-pentanone (45.6 g, 0.63 mol) and orthophosphoric acid (30 ml). 1H n.m.r. δ (CDCl3) 1.23, t J 7.2 Hz, 3H, CH3; 2.56, s, 3H, CH3; 2.76, q J 7.2 Hz, CH2; 6.55, s, CH.

reactant | glyoxylic acid | 0.18 mol, 16.1 g | C(C=O)(=O)O | C2H2O3
reactant | 3-pentanone | 0.63 mol, 45.6 g | CCC(CC)=O | C5H10O
solvent | orthophosphoric acid | 30 ml | P(O)(O)(O)=O | H3O4P
product | 3-Methyl-4-oxo-2-hexenoic acid | CC(=CC(=O)O)C(CC)=O | C7H10O3
